US06469020B2
3,4-Dihydro-1H-β-carboline-2,9-dicarboxylic Acid 2-tert-Butyl Ester 9-(2,2,2-Trichloro-ethyl)Ester
1,3,4,9-Tetrahydro-β-carboline-2-carboxylic acid tert-butyl ester (7.68 g), 2,2,2-trichloroethylchloroformate (5.8 ml), sodium hydroxide (2.8 g) and tetrabutylammonium iodide (catalytic) in dichloromethane (100 ml) were stirred under nitrogen at room temperature for 5 h. The mixture was diluted with dichloromethane (100 ml), washed with water (150 ml) and brine (100 ml), then dried (MgSO4) and the solvent removed under reduced pressure. The residue was chromatographed (SiO2, 1% methanol in dichloromethane) to give the title compound (3.53 g, 28%) as a yellow foam.

reactant | 1,3,4,9-Tetrahydro-β-carboline-2-carboxylic acid tert-butyl ester | 7.68 g | C(C)(C)(C)OC(=O)N1CC=2NC3=CC=CC=C3C2CC1 | C16H20N2O2
reactant | 2,2,2-trichloroethylchloroformate | 5.8 ml | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium hydroxide | 2.8 g | [OH-].[Na+]
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3,4-Dihydro-1H-β-carboline-2,9-dicarboxylic Acid 2-tert-Butyl Ester 9-(2,2,2-Trichloro-ethyl)Ester | 3.53 g, 28% | ClC(COC(=O)N1C2=CC=CC=C2C=2CCN(CC12)C(=O)OC(C)(C)C)(Cl)Cl | C19H21Cl3N2O4
